US08039472B2
Methanesulfonic acid 3-[4-((R)-2,2-dimethyl[1,3]dioxolan-4-ylmethoxy)-phenyl]-propylester (11.8 g, 34.2 mmol) in acetone (200 ml) is treated with lithium bromide (8.9 g, 100 mmol) and then heated at reflux for 5 h. After cooling to room temperature, the mixture is concentrated in vacuo. The resulting residue is dissolved in EtOAc (150 ml), washed with water (2×50 ml), brine, dried (MgSO4), filtered and concentrated in vacuo to give an oil. Purification by chromatography on silica eluting with 4:1 iso-hexane/EtOAc gives (R)-4-[4-(3-Bromo-propyl)-phenoxymethyl]-2,2-dimethyl-[1,3]dioxolane as a colourless oil which solidifies; 1H NMR (CDCl3): 1.39 (3H, s), 1.43 (3H, s), 2.02 (2H, pent, J=6.9 Hz), 2.63 (2H, tr, J=6.9 Hz), 3.38 (2H, tr, J=6.9 Hz), 3.90 (2H, m), 4.02 (1H, m), 4.15 (1H, m), 4.46 (1H, pent, J=6.9 Hz), 6.82 (2H, d, J=7.4 Hz), 7.10 (2H, d, J=7.4 Hz).

reactant | Methanesulfonic acid 3-[4-((R)-2,2-dimethyl[1,3]dioxolan-4-ylmethoxy)-phenyl]-propylester | 34.2 mmol, 11.8 g | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCOS(=O)(=O)C)C | C16H24O6S
reactant | lithium bromide | 100 mmol, 8.9 g | [Br-].[Li+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (R)-4-[4-(3-Bromo-propyl)-phenoxymethyl]-2,2-dimethyl-[1,3]dioxolane | BrCCCC1=CC=C(OC[C@H]2OC(OC2)(C)C)C=C1 | C15H21BrO3
